US04663331
3-Amino-4-[2-(4-dimethylaminobut-2-ynylthio)ethylamino]-1,2,5-thiadiazole-1,1-dioxide
In a manner similar to Example 1, reaction of 2-(4-dimethylamino-but-2-ynylthio)ethylamine and 3,4-dimethoxy-1,2,5-thiadiazole-1,1-dioxide followed by reaction with ammonia gives the title compound.

reactant | 2-(4-dimethylamino-but-2-ynylthio)ethylamine | CN(CC#CCSCCN)C | C8H16N2S
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | ammonia | N | H3N
product | 3-Amino-4-[2-(4-dimethylaminobut-2-ynylthio)ethylamino]-1,2,5-thiadiazole-1,1-dioxide | NC1=NS(N=C1NCCSCC#CCN(C)C)(=O)=O | C10H17N5O2S2
